US04948804
5-neopentyloxy-pyrrolidin-2-one
35 g 2,2-dimethyl propanol (previously melted at 45° C.), 6 g of 5-ethoxy pyrrolidin-2-one and 3 g of Amberlite-15 resin are agitated at 40° C. for 2 hours 15 minutes. After filtering, the 2,2-dimethyl propanol is distilled off under 0.8 mm/Hg at 35° C. The residue is dissolved in hexane and iced for 2 hours. 3.2 g of the expected product is obtained, m.p. 67°-69° C., crystallized from hexane.

reactant | 2,2-dimethyl propanol | 35 g | CC(CO)(C)C | C5H12O
reactant | 5-ethoxy pyrrolidin-2-one | 6 g | C(C)OC1CCC(N1)=O | C6H11NO2
product | 5-neopentyloxy-pyrrolidin-2-one | 3.2 g | C(C(C)(C)C)OC1CCC(N1)=O | C9H17NO2
